US08227601B2
2-Amino-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one
To a mixture of 2-amino-3-benzyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one (10 g, 0.04 mol) in MeOH (334 mL) was added 10% Pd/C (2 g), ammonium formate (13.2 g, 0.21 mmol) and heated at 75° C. for 4 h. After completion of the reaction, the reaction mixture was cooled and filtered through a pad of Celite with hot 1:1 DMF/MeOH. The filtrate was concentrated in vacuo to provide the product as an off-white solid (6.2 g, 99%).

reactant | 2-amino-3-benzyl-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | 0.04 mol, 10 g | NC=1N(C(C2=C(N1)C=CN2)=O)CC2=CC=CC=C2 | C13H12N4O
reactant | ammonium formate | 0.21 mmol, 13.2 g | C(=O)[O-].[NH4+]
solvent | MeOH | 334 mL | CO | CH4O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 2-Amino-3H-pyrrolo[3,2-d]pyrimidin-4(5H)-one | 6.2 g, 99% | NC=1NC(C2=C(N1)C=CN2)=O | C6H6N4O
